* NMOS Current Mirror - SKY130
* Simple 2-transistor current mirror: diode-connected reference + mirror output.
* Iref flows into IREF pin; mirrored current sourced from OUT.

.global VSS
.global VSS
.subckt current_mirror VSS IREF OUT

* M1 — diode-connected reference (gate tied to drain)
* Drain=IREF, Gate=IREF, Source=VSS, Bulk=VSS
M1 IREF IREF VSS VSS sky130_fd_pr__nfet_01v8 W=1.0000e-06 L=1.5000e-07 m=1

* M2 — mirror transistor (gate shares bias with M1)
* Drain=OUT, Gate=IREF, Source=VSS, Bulk=VSS
M2 OUT IREF VSS VSS sky130_fd_pr__nfet_01v8 W=1.0000e-06 L=1.5000e-07 m=1

.ends current_mirror
